US07576091B2
(2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-(4-trifluoromethyl-phenyl)-amine
A mixture of 2-methyl-7-oxo-4,5,6,7-tetrahydro-benzothiazole-6-carbaldehyde (200 mg, 1.02 mmol), N-(4-trifluoromethyl-phenyl)-guanidine nitrate (273 mg, 1.02 mmol), NaOH (41 mg, 1.02 mmol) and 2-methoxyethanol (1.25 mL) was heated under reflux for 16 h. The reaction mixture was concentrated under vacuum. Flash column chromatography (20% EtOAc:hexane) followed by crystallisation from EtOAc gave the pure title compound as a white crystalline solid (30 mg, 8%): mp 212-213° C. Anal. RP-HPLC: tR 21.8 min (10-70% MeCN, purity 95%). 1H-NMR (CDCl3): δ 8.17 (s, 1H, Py-H), 7.71 (d, 2H, J 8.4, Ph-H), 7.52 (d, 2H, J 8.4, Ph-H), 7.16 (s, 1H, NH), 3.04 (t, 2H, J 6.6, CH2), 2.94 (t, 2H, J 6.6, CH2), 2.72 (s, 3H, CH3). MS (ESI−): m/z 360.95 (M−H)+.

reactant | 2-methyl-7-oxo-4,5,6,7-tetrahydro-benzothiazole-6-carbaldehyde | 1.02 mmol, 200 mg | CC=1SC2=C(N1)CCC(C2=O)C=O | C9H9NO2S
reactant | N-(4-trifluoromethyl-phenyl)-guanidine nitrate | 1.02 mmol, 273 mg | [N+](=O)(O)[O-].FC(C1=CC=C(C=C1)NC(=N)N)(F)F
reactant | NaOH | 1.02 mmol, 41 mg | [OH-].[Na+]
solvent | 2-methoxyethanol | 1.25 mL | COCCO | C3H8O2
product | (2-Methyl-4,5-dihydro-thiazolo[4,5-h]quinazolin-8-yl)-(4-trifluoromethyl-phenyl)-amine | 30 mg, 8% | CC=1SC2=C(CCC=3C=NC(=NC23)NC2=CC=C(C=C2)C(F)(F)F)N1 | C17H13F3N4S
